US06982348B2
6) (4RS,5SR)-5-[4-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin 2-one
To a solution of (2RS,3RS)-3-[4-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid (21.0 g, 43.9 mmol) in tetrahydrofuran (300 ml) were added diphenylphosphoryl azide (10.4 ml, 48.3 mmol) and triethylamine (9.2 ml, 65.9 mmol), ant the mixture was heated under reflux for 2 hrs. The reaction solution was allowed to cool and water (400 ml) was added. The mixture was extracted with ethyl acetate (200 ml×2). The extract was washed successively with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (16.4 g, 79%).

reactant | (2RS,3RS)-3-[4-(benzyloxy)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | 43.9 mmol, 21.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C25H22F4O5
reactant | diphenylphosphoryl azide | 48.3 mmol, 10.4 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 65.9 mmol, 9.2 ml | C(C)N(CC)CC | C6H15N
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-[4-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin 2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H21F4NO4
